### PR TITLE
feat: lemmas for reasoning about folds

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds some lemmas for reasoning about (List-based) folds, including
* if each step of the fold preserves a predicate, the predicate has the same value at the beginning and end
* if a predicate stays true at each step, and it is true at the beginning, it is true at the end
* if a predicate stays true at each step, and there is some step at which is becomes true, it is true at the end

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase db3fb47109de07fcfbb3e493d387086b0b8c01ae --onto 797985e3197ad2cf805310911854565996e72c48`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-27 06:13:52)

File: src/Init/Data/List/Lemmas.lean [hunk 1]
```diff
@@ -2831,6 +2831,102 @@ theorem foldr_rel {l : List α} {f : α → β → β} {g : α → γ → γ} {a
...
+  induction xs with
+  | nil => simp
+  | cons x xs ih =>
+    rw [foldr_cons, w _ (mem_cons_self), ih]
+    intro a m r
+    exact w a (mem_cons_of_mem x m) r
+
+/-- If a predicate remains true at each step of a fold,
+and it is true at the beginning, then it is true at the end. -/
+theorem foldr_of_init {xs : List α} {f : α → δ → δ} {init : δ} (p : δ → Prop)
```
Comment (TwoFX) [inline src/Init/Data/List/Lemmas.lean]: Should this be called `foldr_induction`? According to [Loogle](https://loogle.lean-lang.org/?q=%22fold%22%2C+%22induction%22+) there are some similar lemmas for other types with that name.

Comment (Rob23oba) [reply src/Init/Data/List/Lemmas.lean]: This is basically `List.foldrRecOn`, right?

Comment (TwoFX) [reply src/Init/Data/List/Lemmas.lean]: Yes. I was surprised we didn't have this already. Turns out we did!

File: src/Init/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -2831,6 +2831,102 @@ theorem foldr_rel {l : List α} {f : α → β → β} {g : α → γ → γ} {a
...
+/-- If a predicate remains true at each step of a fold,
+and it is true at the beginning, then it is true at the end. -/
+theorem foldr_induction {xs : List α} {f : α → δ → δ} {init : δ} (p : δ → Prop)
+    (w : ∀ (a : α) (_ : a ∈ xs) (r : δ), p r → p (f a r))
+    (h : p init) : p (xs.foldr f init) := by
+  induction xs with
+  | nil => simp_all
+  | cons x xs ih =>
+    rw [foldr_cons]
+    exact w x mem_cons_self (foldr f init xs) (ih fun a m r => w a (mem_cons_of_mem x m) r)
```
Comment (Rob23oba) [inline src/Init/Data/List/Lemmas.lean:2931]: Hmm? This is
```lean-4
theorem foldr_induction {xs : List α} {f : α → δ → δ} {init : δ} (p : δ → Prop)
    (w : ∀ (a : α) (_ : a ∈ xs) (r : δ), p r → p (f a r))
    (h : p init) : p (xs.foldr f init) :=
  List.foldrRecOn xs f h (fun r pr a ha => w a ha r pr)
```
The only reason I'd add it is for discoverability and then I'd define it as an alias of `foldrRecOn` (same for `foldl_induction`)
